US07932272B2
Quinazoline carboxylic acid 3-phenoxybenzylamide
To a solution of quinazoline-6-carboxylic acid obtained in Preparation Example H-3 (9 mg, 0.052 mmol) in N,N-dimethylformamide (3 mL) were added 3-phenoxybenzylamine described in Preparation Example 4 (11 mg, 0.052 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (28 mg, 0.062 mmol) and triethylamine (17 μl, 0.125 mmol), and the solution was stirred for 2 days at room temperature. Water was added to the reaction mixture, which was extracted with ethyl acetate, and concentrated. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate), and the title compound (11 mg, 0.031 mmol, 50%) was obtained.

reactant | quinazoline-6-carboxylic acid | N1=CN=CC2=CC(=CC=C12)C(=O)O | C9H6N2O2
reactant | 3-phenoxybenzylamine | O(C1=CC=CC=C1)C=1C=C(CN)C=CC1 | C13H13NO
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.062 mmol, 28 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.125 mmol, 17 μl | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Quinazoline carboxylic acid 3-phenoxybenzylamide | 0.031 mmol, 11 mg, 50% | O(C1=CC=CC=C1)C=1C=C(CNC(=O)C2=NC3=CC=CC=C3C=N2)C=CC1 | C22H17N3O2
